US06448424B1
Sodium amide (15.6 g, 0.4 mol) was added portionwise to a solution of cyclohexanone (39.26 g, 1.46 mL, 0.4 mol) in 350 mL of anhydrous diethyl ether. The resulting suspension was heated under reflux for 3 h after which time benzyl chloride (46.8 g, 42.6 mL, 0.37 mol) was rapidly added. The mixture was heated under reflux for a further 5 h, then cooled and poured into cold water. The organics were washed once with a dilute HCI solution, a dilute sodium bicarbonate solution and finally with water. The organic layer was dried, filtered and the ether was removed to give 2-benzylcyclohexanone as an oil (28 g, 40%).

reactant | Sodium amide | 0.4 mol, 15.6 g | [NH2-].[Na+]
reactant | cyclohexanone | 0.4 mol, 1.46 mL, 39.26 g | C1(CCCCC1)=O | C6H10O
reactant | benzyl chloride | 0.37 mol, 42.6 mL, 46.8 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | O | H2O
solvent | diethyl ether | 350 mL | C(C)OCC | C4H10O
product | 2-benzylcyclohexanone | 28 g, 40% | C(C1=CC=CC=C1)C1C(CCCC1)=O | C13H16O
